US07138425B2
e) 2-[3-(5-Methylbenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)-5-methylbenzoxazole (112 mg, 0.4 mmol) and 1,2,4-benzenetricarboxylic anhydride (96 mg, 0.5 mmol) the title compound was obtained (92 mg, 50%). 1H NMR (DMSO) δ 8.60(t, 1H), 8.41(d, 1H), 8.29(s, 1H), 8.08(m, 2H), 7.54(d, 1H), 7.45(d, 1H), 7.30(t, 1H), 7.22(d, 1H), 6.99(d, 1H), 3.34(m, 2H), 2.59(s, 3H), 1.79(m, 2H), 1.12(t, 3H). MS 454.1 m/z (M−H)−.

reactant | 2-(3-amino-6-propylaminophenyl)-5-methylbenzoxazole | 0.4 mmol, 112 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C | C17H19N3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.5 mmol, 96 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Methylbenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | CC=1C=CC2=C(N=C(O2)C=2C=C(C=CC2NCCC)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C1 | C26H21N3O5
